US08257931B2
3-Phenyl-2-[(4-phenyl-thiazol-2-ylmethyl)-amino]-propionic acid (20)
To a solution of 2-Oxo-3-phenyl-propionic acid (1.6 mmol, 264 mg) and (4-Phenyl-thiazol-2-yl)-methylamine (1.0 mmol, 190 mg) in MeOH (4 mL), is added NaBH3CN (2.0 mmol, 1N in THF). The pH was then adjusted at 6 with 1M HClaq. The mixture was stirred at room temperature for 3 days. The product was purified by HPLC to give the pure product (210 mg, 62%).

reactant | 2-Oxo-3-phenyl-propionic acid | 1.6 mmol, 264 mg | O=C(C(=O)O)CC1=CC=CC=C1 | C9H8O3
reactant | (4-Phenyl-thiazol-2-yl)-methylamine | 1.0 mmol, 190 mg | C1(=CC=CC=C1)C=1N=C(SC1)NC | C10H10N2S
reactant | NaBH3CN | 2.0 mmol, 1N | [BH3-]C#N.[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | 3-Phenyl-2-[(4-phenyl-thiazol-2-ylmethyl)-amino]-propionic acid | 210 mg, 62% | C1(=CC=CC=C1)CC(C(=O)O)NCC=1SC=C(N1)C1=CC=CC=C1 | C19H18N2O2S
